US07399780B2
6-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide hydrochloride
A mixture of sodium hydride (330 mg, 8.2 mmol, 60% dispersion in oil, pre-washed with hexane) in N,N-dimethylformamide (2 mL) was added to 5-cyanooxindole (980 mg, 6.2 mmol) in N,N-dimethylformamide (4 mL). The formed brown mixture was stirred at room temperature for 20 min and 6-chloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide (500 mg, 2.1 mmol) in N,N-dimethylformamide (3 mL) was added. The obtained red solution was heated at 150° C. for 30 min and was then allowed to reach room temperature overnight. The solvent was removed in vacuo and the residue was partitioned between a 2 M aqueous HCl solution and ethyl acetate. The mixture was alkalized to pH 8 by adding NaHCO3 (s) and extracted with ethyl acetate. The combined extracts were dried (Na2SO4) and the solvent was removed in vacuo to afford 450 mg of a crude product. The residue was purified on a silica gel column using chloroform/methanol/conc. NH3(aq), (80:19:1), as the eluent. Fractions containing product were collected, evaporated in vacuo and dried at 25° C. in vacuo to afford 70 mg. The residue was purified by preparative HPLC (column: Xterra, 19×300 mm, eluent: 0.05 M NH4OAc buffert/acetonitrile, 9:1-3:7). Fractions containing product were collected, evaporated in vacuo and dried at 25° C. in vacuo to afford 35 mg (4.6% yield) of the title compound as the base: 1H NMR (D2O, 400 MHz) δ 7.89 (s, 1 H), 7.59 (d, J=9 Hz, 1 H), 6.96 (s, 1 H), 6.92 (d, J=8 Hz, 1 H), 6.84 (d, J=9 Hz, 1 H), 6.65 (d, J=8 Hz, 1 H), 3.76 (s, 2 H), 3.30 (s, 2 H), 3.07 (s, 3 H), 2.84 (s, 6 H).

reactant | sodium hydride | 8.2 mmol, 330 mg | [H-].[Na+]
reactant | 5-cyanooxindole | 6.2 mmol, 980 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 6-chloro-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide | 2.1 mmol, 500 mg | ClC1=NC=C(C(=O)N(C)CCN(C)C)C=C1 | C11H16ClN3O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 6-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-[2-(dimethylamino)ethyl]-N-methylnicotinamide hydrochloride | 35 mg, 4.6% yield | Cl.C(#N)C=1C=C2C(=C(NC2=CC1)O)C1=NC=C(C(=O)N(C)CCN(C)C)C=C1 | InChI=1S/C20H21N5O2.ClH/c1-24(2)8-9-25(3)20(27)14-5-7-17(22-12-14)18-15-10-13(11-21)4-6-16(15)23-19(18)26;/h4-7,10,12,23,26H,8-9H2,1-3H3;1H
